US06194409B1
85g. 1-Amino-isoquinoline-7-carbonitrile
Palladium acetate (0.9 g) was added to a heated mixture of trifluoromethanesulfonic acid 1-amino-isoquinolin-7-yl ester (5.8 g), zinc cyanide (2.3 g) and triphenylphosphine (1.0 g) in 75 mL of N-methyl-pyrrolidone at 190° C. (exothermic!). Stirring was continued at 190° C. for 2 h. Precipitated material was removed by filtration and discarded. Ethyl acetate was added and the organic mixture washed with 2N aqueous ammonia, water and brine and dried (Na2SO4). Filtration and concentration afforded a brownish oil, which was purified by silica chromatography (ethyl acetate/isohexane=3/7, 4/6, 5/5, 6/4, 7/3, 8/2) to give 3.2 g (94%) of the title compound as yellow crystals. M.p. 183-186° C.

reactant | trifluoromethanesulfonic acid 1-amino-isoquinolin-7-yl ester | 5.8 g | NC1=NC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C10H7F3N2O3S
reactant | triphenylphosphine | 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-methyl-pyrrolidone | 75 mL | CN1C(CCC1)=O | C5H9NO
catalyst | Palladium acetate | 0.9 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | zinc cyanide | 2.3 g | [C-]#N.[Zn+2].[C-]#N
product | 1-Amino-isoquinoline-7-carbonitrile | 3.2 g, 94% | NC1=NC=CC2=CC=C(C=C12)C#N | C10H7N3
